US05494908
6-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine
To a sealed tube was added 3-chloro-6-methoxy-1,2-benzisoxazole (6.0 g) and N-methyl-N-[2-(4-morpholinyl)ethyl]-amine (13.8 g). The reaction was heated to 140° C. over 48 hours and then cooled to room temperature. The residue was partitioned between ethyl acetate (EtOAc) and water, extracted again with EtOAc, and the organic phase was dried over magnesium sulfate (MgSO4) and concentrated in vacuo. Flash column chromatography (silica gel) eluting with 1% methanol/dichloromethane (MeOH/DCM) provided the product (4.7 g), m.p. 43°-44° C.

reactant | 3-chloro-6-methoxy-1,2-benzisoxazole | 6.0 g | ClC1=NOC2=C1C=CC(=C2)OC | C8H6ClNO2
reactant | N-methyl-N-[2-(4-morpholinyl)ethyl]-amine | 13.8 g | CNCCN1CCOCC1 | C7H16N2O
product | 6-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 4.7 g | COC1=CC2=C(C(=NO2)N(CCN2CCOCC2)C)C=C1 | C15H21N3O3
